US05686424
Using the procedure described in example 5, treatment of L-proline-L-isoleucine benzylamide (47 mg, 0.15 mmol), with sodium carbonate (31 mg, 0.29 mmol, 2.0 eq), and methyl alpha-bromoacetate (113 mg, 0.74 mmol, 5.0 eq) in acetonitrile (5 mL), provided 50 mg (87%) of L-isoleucine, N-[1-(2-methoxy-2-oxoethyl)-L-prolyl] benzylamide as a white foam.

reactant | L-proline L-isoleucine benzylamide | 0.15 mmol, 47 mg | N1[C@H](C(=O)O)CCC1.C(C1=CC=CC=C1)NC([C@@H](N)[C@@H](C)CC)=O
reactant | sodium carbonate | 0.29 mmol, 31 mg, 2.0 eq | C([O-])([O-])=O.[Na+].[Na+]
reactant | methyl alpha-bromoacetate | 0.74 mmol, 113 mg, 5.0 eq | BrCC(=O)OC | C3H5BrO2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | L-isoleucine, N-[1-(2-methoxy-2-oxoethyl)-L-prolyl] benzylamide | 50 mg, 87% | COC(CN1[C@H](C(=O)N(C([C@@H](N)[C@@H](C)CC)=O)CC2=CC=CC=C2)CCC1)=O | C21H31N3O4
